US04898871
The procedure is as in Example 44, but starting with [2-(7-methoxy-1,8-napthyridin-2-yl)-3-oxo-1-isoindolinyloxy] acetic acid (3.5 g) in anhydrous dimethylformamide (70 cc), N,'-carbonyldiimidazole (1.6 g) and 4-hydroxypiperidine (0.82 g). After recrystallization in ethanol, 3-[2-(4-hydroxy-1-piperidyl)-2-oxoethoxy]-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone (3.7 g), m.p. 167° C., is obtained.

reactant | [2-(7-methoxy-1,8-napthyridin-2-yl)-3-oxo-1-isoindolinyloxy] acetic acid | 3.5 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)O | C19H15N3O5
reactant | 4-hydroxypiperidine | 0.82 g | OC1CCNCC1 | C5H11NO
solvent | dimethylformamide | 70 cc | CN(C=O)C | C3H7NO
product | 3-[2-(4-hydroxy-1-piperidyl)-2-oxoethoxy]-2-(7-methoxy-1,8-naphthyridin-2-yl)-1-isoindolinone | 3.7 g | OC1CCN(CC1)C(COC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)=O | C24H24N4O5
